US05523440
4.7 g (20 mmol) of trans-1-(1-propenyl)-4-bromomethyl-1-silacyclohexane was dripped into a mixture of 0.5 g (21 mmol) of magnesium and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 5.7 g (20 mmol) of 4'-bromomethyl-3,4-difluorobiphenyl and a catalytic amount of cuprous chloride to obtain 4-[2-(trans-4-(1-propenyl)-4-silacyclohexyl) ethyl]-3',4'-difluorobiphenyl. The silacyclohexane rings of this product were a mixture of trans isomers and cis isomers. After a conventional after treatment, they were separated by means of chromatography to obtain 6.1 g of the trans isomers (yield 86%).

reactant | trans-1-(1-propenyl)-4-bromomethyl-1-silacyclohexane | 20 mmol, 4.7 g | C(=CC)[Si@@H]1CC[C@H](CC1)CBr | C9H17BrSi
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-bromomethyl-3,4-difluorobiphenyl | 20 mmol, 5.7 g | BrCC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C13H9BrF2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[2-(trans-4-(1-propenyl)-4-silacyclohexyl) ethyl]-3',4'-difluorobiphenyl | yield 86% | C(=CC)[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C22H26F2Si
